US07319104B2
To a solution of 4-(4-bromophenyl)-2-cyclopropyl-1,3-oxazole (1.78 g, 6.74 mmol) in NMP (25 mL) was added copper cyanide (4.22 g, 47.12 mmol). The mixture was heated to 185C for 4 h. Upon cooling, the mixture was poured into a 0C solution of 5% aqueous sodium cyanide (60 ml). The aqueous phase was extracted with Et2O. The combined organic phases were washed with, 5% aqueous sodium cyanide, water, and brine, dried with MgSO4 and concentrated in vacuo. The crude material was purified by flash chromatography (CH2Cl2/Hexanes, 2:3 to 10:0) to yield 4-(2-cyclopropy-1,3-oxazol-4-yl)benzonitrile as a yellow solid (1.00 g, 71%).

reactant | 4-(4-bromophenyl)-2-cyclopropyl-1,3-oxazole | 6.74 mmol, 1.78 g | BrC1=CC=C(C=C1)C=1N=C(OC1)C1CC1 | C12H10BrNO
reactant | copper cyanide | 47.12 mmol, 4.22 g | [Cu](C#N)C#N
reactant | sodium cyanide | 60 ml | [C-]#N.[Na+]
solvent | NMP | 25 mL | CN1CCCC1=O | C5H9NO
product | 4-(2-cyclopropy-1,3-oxazol-4-yl)benzonitrile | 1.00 g, 71% | C1(CC1)C=1OC=C(N1)C1=CC=C(C#N)C=C1 | C13H10N2O
